US07276395B2
Synthesis of 5-(2-anthracenyl)-5′-hexyl-2,2′-bithiophene (An-T2-C6-H13)
A vessel was charged with Pd2(dba)3 (77 mg, 84 μmol, 2 mol %), CsF (1.41 g, 9.29 mmol), 2-bromoanthracene (1.09 g, 4.22 mmol), 1,4-dioxane (20 mL), 5-(tri-n-butylstannyl)-5′-hexyl-2,2′-bithiophene (2.28 g, 4.22 mmol), and P(t-Bu)3 (0.74 mL of a 10 wt % solution in hexanes, 0.25 mmol). The mixture was heated at 95° C. for 36 h and then the volatile materials were removed under reduced pressure. The residue was extracted with 450 mL methylene chloride and the filtered extract was washed with 2×150 mL of brine. After drying with MgSO4, the bright orange solution was filtered, concentrated, and then cooled overnight at −35° C. Bright orange product (1.35 g, 75%) was isolated by filtration and dried under vacuum. The material may be purified further by gradient sublimation at a source temperature of 175-200° C. 1H NMR was consistent with the desired structure. UV-vis spectrum in CHCl3, 17.3 μg/mL: λmax (ε), 246 (53,500), 259 (54,700), 342 (40,200), 356 (42,900), 397 (27,600). ΔEopt˜2.8 eV. Fluorescence spectrum in CHCl3, excitation at 400 nm: λmax=464 (1.4×106 CPS). DSC (20° C./min): 204° C., (mp, ΔH=36 Jg−1).

reactant | CsF | 9.29 mmol, 1.41 g | [F-].[Cs+]
reactant | 2-bromoanthracene | 4.22 mmol, 1.09 g | BrC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C14H9Br
reactant | 5-(tri-n-butylstannyl)-5′-hexyl-2,2′-bithiophene | 4.22 mmol, 2.28 g | C(CCC)[Sn](C1=CC=C(S1)C=1SC(=CC1)CCCCCC)(CCCC)CCCC
reactant | P(t-Bu)3 | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | Pd2(dba)3 | 84 μmol, 77 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-(2-anthracenyl)-5′-hexyl-2,2′-bithiophene | 1.35 g, 75% | C1=C(C=CC2=CC3=CC=CC=C3C=C12)C1=CC=C(S1)C=1SC(=CC1)CCCCCC | C28H26S2
